US08877760B2
The crude tert-butyl (1S,2R)-2-(5-cyano-6-(1-methyl-1H-indol-4-ylamino)pyrazin-2-ylamino)cyclohexylcarbamate (153 mg) was dissolved in TFA (4 mL). After being stirred at room temperature for 2 h, the mixture was concentrated in vacuo. The residue was purified by HPLC to give 5-((1R,2S)-2-aminocyclohexylamino)-3-(1-methyl-1H-indol-4-ylamino)pyrazine-2-carbonitrile (18 mg).

reactant | tert-butyl (1S,2R)-2-(5-cyano-6-(1-methyl-1H-indol-4-ylamino)pyrazin-2-ylamino)cyclohexylcarbamate | 153 mg | C(#N)C=1N=CC(=NC1NC1=C2C=CN(C2=CC=C1)C)N[C@H]1[C@H](CCCC1)NC(OC(C)(C)C)=O | C25H31N7O2
solvent | TFA | 4 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | 5-((1R,2S)-2-aminocyclohexylamino)-3-(1-methyl-1H-indol-4-ylamino)pyrazine-2-carbonitrile | 18 mg | N[C@@H]1[C@@H](CCCC1)NC=1N=C(C(=NC1)C#N)NC1=C2C=CN(C2=CC=C1)C | C20H23N7
